US03994871
5. Trt-Cys(Trt)-Cys(Acm)-Thr(But)-Ser(But)-OMe
5.43 g of Trt-Cys(Trt)-Cys(Acm)-OH and 2.33 g of H-Thr(But)-Ser(But)-OMe are dissolved in 70 ml of ethyl acetate and 1.55 g of dicyclohexylcarbodiimide and 1.02 g of N-hydroxybenzotriazole are added at 0°C. After 4 hours at 0°C and 17 hours at 4°C, the mixture is filtered and the solution is diluted with 200 ml of ethyl acetate and washed with 1 N citric acid, 1 N sodium bicarbonate and water. After drying over sodium sulphate, the solution is evaporated and the residue is reprecipitated from ether acetatepetroleum ether.

reactant | Trt-Cys(Trt)-Cys(Acm)-OH | 5.43 g | N([C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)N[C@@H](CSCNC(=O)C)C(=O)O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C47H45N3O4S2
reactant | H-Thr(But)-Ser(But)-OMe | 2.33 g | N[C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H](COC(C)(C)C)C(=O)OC | C16H32N2O5
reactant | dicyclohexylcarbodiimide | 1.55 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-hydroxybenzotriazole | 1.02 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
product | Trt-Cys(Trt)-Cys(Acm)-Thr(But)-Ser(But)-OMe | N([C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)N[C@@H](CSCNC(=O)C)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H](COC(C)(C)C)C(=O)OC)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C63H75N5O8S2
